US04505926
1-Acetyl-2-(4-carbomethoxy-2,6-dichlorophenylimino)imidazolidine
Methyl-4-amino-3,5-dichlorobenzoate (16.8 g, 31 mmole), 1-acetyl-2-imidazolidone (4.3 g, 33.5 mmole) in phosphoryl chloride (44 ml) were stirred at 50° C. for 3 days. After cooling the phosphoryl chloride was evaporated to give an oily residue. Iced water was added to the residue which was then basified with aqueous sodium hydroxide. The mixture was extracted with methylene chloride which was then washed with water, dried (magnesium sulphate) and evaporated to give a creamy solid. This solid was recrystallised from toluene to give the title compound (7.7 g) mp 188°-189° C.

reactant | Methyl-4-amino-3,5-dichlorobenzoate | 31 mmole, 16.8 g | COC(C1=CC(=C(C(=C1)Cl)N)Cl)=O | C8H7Cl2NO2
reactant | 1-acetyl-2-imidazolidone | 33.5 mmole, 4.3 g | C(C)(=O)N1C(NCC1)=O | C5H8N2O2
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | phosphoryl chloride | 44 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Acetyl-2-(4-carbomethoxy-2,6-dichlorophenylimino)imidazolidine | 7.7 g | C(C)(=O)N1C(NCC1)=NC1=C(C=C(C=C1Cl)C(=O)OC)Cl | C13H13Cl2N3O3
